US05559230
To a solution of 1,2,3,4-tetrahydroquinoline (28.7 g) in acetone (400 ml) and water (200 ml) is added potassium carbonate (38.8 g) and further thereto is added 4-benzoylaminobenzoyl chloride (56 g) under ice-cooling. The mixture is stirred at room temperature overnight. Water is added to the reaction mixture, and the mixture is extracted with dichloromethane. The extract is dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The resulting residue is purified by silica gel column chromatography and recrystallized from methanol to give 1-[4-(benzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (57 g) as white powder, m.p. 202.5°-203.5° C.

reactant | 1,2,3,4-tetrahydroquinoline | 28.7 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 38.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-benzoylaminobenzoyl chloride | 56 g | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C14H10ClNO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | 1-[4-(benzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 57 g | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C23H20N2O2
